US08791132B2
A solution of 1-(4-allyl-2,4,8-trimethyl-1,2,3,4-tetrahydro-pyrido[4,3-b]indol-5-yl)-2-(4-fluoro-phenyl)-propan-2-ol (300 mg, 0.738 mmol) in 6N HCl (10 mL) was stirred at 80° C. for 2 h. The progress of reaction mass was monitored by TLC and LCMS. The reaction mixture was basified with saturated sodium bicarbonate solution and extracted with EtOAc (3×25 mL). The combined organic layer was dried over anhydrous sodium sulfate and concentrated. The residue was purified by silica gel column chromatography (1% MeOH-DCM) to yield 4-allyl-5-[2-(4-fluoro-phenyl)-propenyl]-2,4,8-trimethyl-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole. The product is further purified by reverse phase HPLC followed by chiral HPLC separation to give enantiomers 274a and 274b. 1H NMR (CD3OD, HCl salt) δ (ppm): 7.62 (m, 2H), 7.27 (s, 1H), 7.20 (m, 2H), 7.04 (m, 3H), 6.78-6.82 (m, 1H), 5.18 (d, 2H), 4.78 (d, 1H), 4.37 (d, 1H), 3.58 (m,2H), 3.18 (s, 3H), 2.40 (s, 3H), 2.38 (d, 2H), 1.82 (s, 3H), 1.58 (s, 3H).

reactant | 1-(4-allyl-2,4,8-trimethyl-1,2,3,4-tetrahydro-pyrido[4,3-b]indol-5-yl)-2-(4-fluoro-phenyl)-propan-2-ol | 0.738 mmol, 300 mg | C(C=C)C1(CN(CC2=C1N(C=1C=CC(=CC21)C)CC(C)(O)C2=CC=C(C=C2)F)C)C | C26H31FN2O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | HCl | 6N, 10 mL | Cl | ClH
product | 4-allyl-5-[2-(4-fluoro-phenyl)-propenyl]-2,4,8-trimethyl-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole | C(C=C)C1(CN(CC2=C1N(C=1C=CC(=CC21)C)C=C(C)C2=CC=C(C=C2)F)C)C | C26H29FN2
